US07786115B2
Methyl 3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoate (529 mg), N-phenyltrifluoromethanesulfonamide (612 mg) and potassium carbonate (709 mg) were stirred in THF (15 ml) and heated under microwave irradiation (Personal Chemistry Emrys Optimizer with 300 W magnetron) at 120° C. for 10 minutes. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate and washed with water (×2), brine, dried (magnesium sulfate) and concentrated. Purification by column chromatography with a gradient of iso-hexane to 30% ethyl acetate/iso-hexane yielded methyl 4-methyl-3-[1-oxo-7-{[(trifluoromethyl)sulfonyl]oxy} isoquinolin-2(1H)-yl]benzoate as a white solid (613 mg); NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 3.86 (s, 3H), 6.89 (d, 1H), 7.50 (d, 1H), 7.60 (d, 1H), 7.90 (s, 1H), 7.93 (d, 1H), 8.00 (m, 2H), 8.20 (s, 1H); Mass Spectrum: M+Na+ 464.

reactant | Methyl 3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoate | 529 mg | OC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)OC)C=CC1C | C18H15NO4
reactant | N-phenyltrifluoromethanesulfonamide | 612 mg | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
reactant | potassium carbonate | 709 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | methyl 4-methyl-3-[1-oxo-7-{[(trifluoromethyl)sulfonyl]oxy} isoquinolin-2(1H)-yl]benzoate | 613 mg | CC1=C(C=C(C(=O)OC)C=C1)N1C(C2=CC(=CC=C2C=C1)OS(=O)(=O)C(F)(F)F)=O | C19H14F3NO6S
